US09381196B2
To a solution of methyl 8-(2-(cyclopropylamino)phenylamino)-8-oxooctanoate (390 mg) in toluene was added a drop of acetic acid. The reaction was heated to 110° C. overnight and concentrated. The residue was purified by biotage column chromatography to give methyl 7-(1-cyclopropyl-1H-benzo[d]imidazol-2-yl)heptanoate (249 mg)

reactant | methyl 8-(2-(cyclopropylamino)phenylamino)-8-oxooctanoate | 390 mg | C1(CC1)NC1=C(C=CC=C1)NC(CCCCCCC(=O)OC)=O | C18H26N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 7-(1-cyclopropyl-1H-benzo[d]imidazol-2-yl)heptanoate | 249 mg | C1(CC1)N1C(=NC2=C1C=CC=C2)CCCCCCC(=O)OC | C18H24N2O2
